US07838543B2
2′-Chloro-4′-methoxy-biphenyl-4-carboxylic Acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following a procedure analogous to Example 113, Step 1, using N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide (0.05 g, 0.12 mmol) and 2-chloro-4-methoxy-phenyl boronic acid (0.026 g, 0.14 mmol) to afford 0.036 g (60%). LC/MS, Retention time=4.53 min; (m/z): calcd for C26H27ClN4O2S (M+H)+: 496.1; found: 496.0.

reactant | N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide | 0.12 mmol, 0.05 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)I)=O)C)C | C19H21IN4OS
reactant | 2-chloro-4-methoxy-phenyl boronic acid | 0.14 mmol, 0.026 g | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
product | 2′-Chloro-4′-methoxy-biphenyl-4-carboxylic Acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=C(C=C2)OC)Cl)C)C | C26H27ClN4O2S
